US06586429B2
A mixture of (R)-1-(5-acetoxyhexyl)-7-ethoxymethyl-8-(2-hydroxyethylamino)-3-methylxanthine (3.95 g, 9.3 mmol) and thionyl chloride (25 ml) was stirred at room temperature for 3 hours. After concentrating under reduced pressure to remove unreacted thionyl chloride, ethanol (100 ml) and a 1.0 M solution of hydrogen chloride in diethyl ether (10.0 ml) were added. After the mixture was stirred at 75-80° C. for 16 hours, concentrating under reduced pressure provided (R)-1-(5-hydroxyhexyl)-8-(2-chloroethylamino)-3-methylxanthine (2.2 g, 69% yield) as a white powder.

reactant | (R)-1-(5-acetoxyhexyl)-7-ethoxymethyl-8-(2-hydroxyethylamino)-3-methylxanthine | 9.3 mmol, 3.95 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)NCCO)C)C | C19H31N5O6
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | (R)-1-(5-hydroxyhexyl)-8-(2-chloroethylamino)-3-methylxanthine | 2.2 g, 69% yield | O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)NCCCl)C)C | C14H22ClN5O3
